US07691876B2
Preparation of 2-(4-chloro-3-trifluoromethyl-phenyl)-ethylamine hydrochloride
A mixture of 4-bromomethyl-1-chloro-2-trifluoromethyl-benzene (3.94 g, 14.4 mmol) and sodium cyanide (1.06 g, 21.6 mmol) in dimethyl sulfoxide (12 mL) was heated at 50° C. for one hour. The reaction mixture was then poured on ice water and extracted four times with dichloromethane. The combined organic phases were washed with water, dried over magnesium sulfate, filtered and concentrated, leading to (4-chloro-3-trifluoromethyl-phenyl)-acetonitrile (3.19 g, 14.4 mmol) as a dark red oil. This crude material was transformed into the title compound in accordance with the general method of example H2. White solid, MS (ISP) 224.1 (M−Cl)+.

reactant | 4-bromomethyl-1-chloro-2-trifluoromethyl-benzene | 14.4 mmol, 3.94 g | BrCC1=CC(=C(C=C1)Cl)C(F)(F)F | C8H5BrClF3
reactant | sodium cyanide | 21.6 mmol, 1.06 g | [C-]#N.[Na+]
reactant | (4-chloro-3-trifluoromethyl-phenyl)-acetonitrile | 14.4 mmol, 3.19 g | ClC1=C(C=C(C=C1)CC#N)C(F)(F)F | C9H5ClF3N
solvent | dimethyl sulfoxide | 12 mL | CS(=O)C | C2H6OS
product | 2-(4-chloro-3-trifluoromethyl-phenyl)-ethylamine hydrochloride | Cl.ClC1=C(C=C(C=C1)CCN)C(F)(F)F | InChI=1S/C9H9ClF3N.ClH/c10-8-2-1-6(3-4-14)5-7(8)9(11,12)13;/h1-2,5H,3-4,14H2;1H
